US05574064
Synthesis of 2-(4-cyanophenoxy)- 1-methylethylamine (Intermediate Compound No. 1)
50.0 g of 2-amino-1-propanol was added dropwise to a stirred mixture of 29.3 g of 60% sodium hydride and 300 mL of N,N-dimethylformamide at 0° C. After the reaction mixture was stirred for 30 minutes at 0° C., a solution containing 121.2 g of 4-bromobenzonitrile dissolved in N,N-dimethylformamide was added dropwise to the reaction mixture. The resultant mixture was stirred for 20 hours at room temperature. After completion of the reaction, the resultant mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water and then dried over anhydrous magnesium sulfate. The ethyl acetate was removed under reduced pressure. The residue was distilled under reduced pressure to obtain 48.0 g of the desired product (yield 41%). Boiling point: 132° C./0.26 mmHg.

reactant | 2-amino-1-propanol | 50.0 g | NC(CO)C | C3H9NO
reactant | sodium hydride | 29.3 g | [H-].[Na+]
reactant | 4-bromobenzonitrile | 121.2 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
product | 2-(4-cyanophenoxy)- 1-methylethylamine | 48.0 g, yield 41% | C(#N)C1=CC=C(OCC(C)N)C=C1 | C10H12N2O
